US05830902
3-(2,2-Dibromovinyl)-10-methylphenothiazine
In an atmosphere of argon, carbon tetrabromide (8.29 g, 25 mmol) and zinc powder (1.63 g, 25 mmol) were added in that order to a mixture of triphenylphosphine (6.56 g, 25 mmol) and dichloromethane (75 ml), and the mixture was stirred at room temperature for 23 hours. A dichloromethane (25 ml) solution of 3-formyl-10-methylphenothiazine (3.02 g, 12.5 mmol) was added and the mixture was again stirred for 7 hours. The reaction mixture was diluted with hexane and the insoluble matter was removed by filtration. The reaction product was extracted from the insoluble matter three times with hexane (about 60° C.), and the thus collected organic layers were combined and concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent; ethyl acetate:dichloromethane:hexane=10:10:80) to give the title compound (3.15 g, 7.93 mmol, 63%) as yellow crystals.

reactant | carbon tetrabromide | 25 mmol, 8.29 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 25 mmol, 6.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | 3-formyl-10-methylphenothiazine | 12.5 mmol, 3.02 g | C(=O)C=1C=CC=2N(C3=CC=CC=C3SC2C1)C | C14H11NOS
solvent | hexane | CCCCCC | C6H14
catalyst | zinc | 25 mmol, 1.63 g | [Zn] | Zn
product | 3-(2,2-Dibromovinyl)-10-methylphenothiazine | 7.93 mmol, 3.15 g, 63% | BrC(=CC=1C=CC=2N(C3=CC=CC=C3SC2C1)C)Br | C15H11Br2NS
